US07547697B2
(1R,8S)-5-tert-Butyl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene
light yellow oil. MS (ESI): 245.2 (MH+). Prepared from (1R,4S)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione, (3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester, hydrazine monohydrate. Main product isolated and purified by silica gel chromatography.

reactant | (1R,4S)-1,7,7-trimethyl-bicyclo[2.2.1]heptane-2,3-dione | C[C@@]12C(C([C@@H](CC1)C2(C)C)=O)=O | C10H14O2
reactant | (3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C(C)(C)C)=O | C8H17O4P
reactant | hydrazine monohydrate | O.NN
product | (1R,8S)-5-tert-Butyl-1,11,11-trimethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene | C(C)(C)(C)C=1N=NC=2[C@@]3(CC[C@H](C2C1)C3(C)C)C | C16H24N2
